US05378704
1. 2-Amino-3,4,5,6-tetrafluorobenzene sulfonic acid
2,3,4,5-Tetrafluoroaniline (16.5 g, 0.1 mol) was added dropwise over 20 minutes with stirring to a mixture of chlorosulfonic acid (14 g, 0.12 mol) in tetrachloroethylene (100 mL) with ice bath cooling. A yellow precipitate formed immediately.. When the addition was complete, the mixture was heated at reflux for three hours, during which a light tan granular solid formed. The solid was collected by filtration, washed with ether, and dried in vacuo to give the title compound (25 g); m.p. 272°-276° .

reactant | 2,3,4,5-Tetrafluoroaniline | 0.1 mol, 16.5 g | FC1=C(N)C=C(C(=C1F)F)F | C6H3F4N
reactant | chlorosulfonic acid | 0.12 mol, 14 g | ClS(=O)(=O)O | ClHO3S
solvent | tetrachloroethylene | 100 mL | ClC(=C(Cl)Cl)Cl | C2Cl4
product | 2-Amino-3,4,5,6-tetrafluorobenzene sulfonic acid | 25 g | NC1=C(C(=C(C(=C1F)F)F)F)S(=O)(=O)O | C6H3F4NO3S
